US04032525
A solution of 6.44 g. of titanium (IV) chloride in 25 ml. of benzene is added dropwise over a period of 15 minutes with cooling to a solution of 9.12 g. of 2-fluoro-10,11-dihydro-dibenz[b,f]oxepin-10-one and 18 g. of 1-methyl-piperazine in 100 ml. of benzene in such a manner that the temperature does not exceed 25° C. The mixture is subsequently stirred for 4 hours at reflux. The resulting mixture is cooled and poured into a solution of 10 g. of sodium bicarbonate in 100 ml. of water. The precipiated titanium dioxide is removed by filtration and washed carefully with benzene and chloroform. The benzene solution and the chloroform solution are washed four times with water, combined, dried over sodium sulfate, evaporated in vacuo, and there is obtained crude, crystalline 1-[2-fluoro-dibenz[b,f]oxepin-10-yl]-4-methyl-piperazine.

reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | 2-fluoro-10,11-dihydro-dibenz[b,f]oxepin-10-one | FC1=CC2=C(OC3=C(C(C2)=O)C=CC=C3)C=C1 | C14H9FO2
reactant | 1-methyl-piperazine | CN1CCNCC1 | C5H12N2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
catalyst | titanium (IV) chloride | [Ti](Cl)(Cl)(Cl)Cl
solvent | water | O | H2O
product | 1-[2-fluoro-dibenz[b,f]oxepin-10-yl]-4-methyl-piperazine | FC1=CC2=C(OC3=C(C(=C2)N2CCN(CC2)C)C=CC=C3)C=C1 | C19H19FN2O
